US07982071B2
Alkylation of 3-hydroxybenzaldehyde with phenethyl bromide was done following the method used in Example 34, except that DMF was used as the reaction solvent, to give 3-phenethoxybenzaldehyde as a clear oil. Yield (0.98 g, 54%): 1H NMR (400 MHz, CDCl3) δ 9.96 (s, 1H), 7.21-7.48 (m, 8H), 7.18-7.20 (m, 1H), 4.24 (t, J=7.0 Hz, 2H), 3.13 (t, J=7.0 Hz, 2H).

reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | phenethyl bromide | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-phenethoxybenzaldehyde | C(CC1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C15H14O2
